US06506800B2
Preparation of (4E)-3-(4-chlorophenyl)-4,5-difluoro-6-(3-phenoxyphenyl)-4-hexenyl phenyl sulfoxide
To a stirred solution of 1-[(2E)-4-(4-chlorophenyl)-2,3-difluoro-6-(phenylsulfanyl)-2-hexenyl]-3-phenoxybenzene (0.311 g, 0.61 mmol) in methylene chloride (13 ml) under nitrogen was added dropwise a solution of m-chloroperbenzoic acid (m-CPBA; 0.13 g, 0.65 mmol) in methylene chloride (2 ml) over one minute. The reaction mixture was stirred at room temperature for two hours, diluted with methylene chloride (50 ml) and washed successively with saturated aqueous sodium bicarbonate and water. The organic solution was dried over anhydrous sodium sulfate and concentrated in vacuo to afford the title compound as a colorless syrup (0.318 g), which was characterized by IR, 1HNMR, 19FNMR and mass spectral analysis, and used without further purification.

reactant | 1-[(2E)-4-(4-chlorophenyl)-2,3-difluoro-6-(phenylsulfanyl)-2-hexenyl]-3-phenoxybenzene | 0.61 mmol, 0.311 g | ClC1=CC=C(C=C1)C(\C(=C(\CC1=CC(=CC=C1)OC1=CC=CC=C1)/F)\F)CCSC1=CC=CC=C1 | C30H25ClF2OS
reactant | m-chloroperbenzoic acid | 0.65 mmol, 0.13 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene chloride | 13 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | (4E)-3-(4-chlorophenyl)-4,5-difluoro-6-(3-phenoxyphenyl)-4-hexenyl phenyl sulfoxide | 0.318 g | C1(=CC=CC=C1)S(=O)CCC(/C(=C(/CC1=CC(=CC=C1)OC1=CC=CC=C1)\F)/F)C1=CC=C(C=C1)Cl | C30H25ClF2O2S
